US07985795B2
Preparation of N,N-Bis(2-ethylhexyl)(oxiranylmethyl)amine
A mixture of epichlorohydrin (111 g, 1.2 mol), and water (0.27 g, 0.015 mol) was vigorously stirred at room temperature. Bis(2-ethylhexyl)amine (241.4 g, 1.0 mol) was added slowly by an addition funnel. The mixture was slowly heated to 70° C. and then stirred at 70° C. for 6 hours. The mixture was washed with aqueous potassium carbonate, K2CO3, (20%, 200 ml). Sodium hydroxide, NaOH, (36%, 200 ml) was added to the oil phase and the mixture was stirred at 70-90° C. for 18 hours. The phases were separated and extracted with ethyl acetate (3×100 ml). The combined extracts were washed with brine, dried over magnesium sulfate, MgSO4, and the solvent removed by rotary evaporation.

reactant | epichlorohydrin | 1.2 mol, 111 g | C(Cl)C1CO1 | C3H5ClO
reactant | water | 0.015 mol, 0.27 g | O | H2O
reactant | Bis(2-ethylhexyl)amine | 1.0 mol, 241.4 g | C(C)C(CNCC(CCCC)CC)CCCC | C16H35N
product | N,N-Bis(2-ethylhexyl)(oxiranylmethyl)amine | C(C)C(CN(CC(CCCC)CC)CC1OC1)CCCC | C19H39NO
